US06852744B2
To a solution of tert-butyl 2-(2-oxo-3-benzylimidazolidinyl)acetate (2.51 g, 8.64 mmol) in dichloromethane (15 ml) was added trifluoroacetic acid (10 ml). After stirring the mixture at room temperature for 1 hour, the solvent was removed under reduced pressure. The oily residue was crystallized by treating with ethyl acetate and filtered off to give 2-(2-oxo-3-benzylimidazolidinyl)acetic acid (1.56 g).

reactant | tert-butyl 2-(2-oxo-3-benzylimidazolidinyl)acetate | 8.64 mmol, 2.51 g | O=C1N(CCN1CC1=CC=CC=C1)CC(=O)OC(C)(C)C | C16H22N2O3
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-(2-oxo-3-benzylimidazolidinyl)acetic acid | 1.56 g | O=C1N(CCN1CC1=CC=CC=C1)CC(=O)O | C12H14N2O3
